US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(1H-benzoimidazol-2-yl-methyl)-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-(aminomethyl)-benzimidazole

reactant | 1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=C(C=CC(=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-(aminomethyl)-benzimidazole | NCC=1NC2=C(N1)C=CC=C2 | C8H9N3
product | 2-[1-(3,4-Dimethoxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(1H-benzoimidazol-2-yl-methyl)-acetamide | COC=1C=C(CC2N(CCC3=C(C=CC(=C23)OC)OC)CC(=O)NCC2=NC3=C(N2)C=CC=C3)C=CC1OC | C30H34N4O5
